US07943619B2
g) (5-Methyl-3-pyrimidin-4-yl-isoxazol-4-yl)-methanol
To a solution of 5-methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid (300 mg, 1.46 mmol) in THF (4 mL) at −10° C. was added triethylamine (203 μL, 1.46 mmol) and then a solution of ethylchloroformate (139 μL, 1.46 mmol) in THF (1 mL) added keeping the temperature below −5° C. After 1 h the mixture was filtered and the filtrate cooled to −10° C. and a suspension of sodiumborohydride (138 mg, 3.66 mmol) in water (1.5 mL) added over 15 minutes keeping the temperature below −5° C. The mixture was then allowed to warm up to room temperature over 2 h and diluted with aqueous sodium hydroxide (1 N) and extracted with ethylacetate. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, dichloromethane:methanol=9:1) afforded the title product (52.5 mg, 19%) which was obtained as white solid. MS: m/e=190.0 [M−H]−.

reactant | 5-methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid | 1.46 mmol, 300 mg | CC1=C(C(=NO1)C1=NC=NC=C1)C(=O)O | C9H7N3O3
reactant | triethylamine | 1.46 mmol, 203 μL | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 1.46 mmol, 139 μL | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodiumborohydride | 3.66 mmol, 138 mg | [BH4-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
product | (5-Methyl-3-pyrimidin-4-yl-isoxazol-4-yl)-methanol | 52.5 mg, 19% | CC1=C(C(=NO1)C1=NC=NC=C1)CO | C9H9N3O2
